US07691879B2
Step E: 1-chloro-4-(3-fluorophenyl)-6-pyridin-2-ylisoquinoline-3-carbonitrile
POCl3 (22 mg, 0.15 mmol) was added to 4-(3-fluorophenyl)-1-hydroxy-6-pyridin-2-ylisoquinoline-3-carbonitrile (50 mg, 0.15 mmol) neat. The resulting mixture was heated to 90° C. for 18 h. The reaction was cooled to room temperature and diluted with H2O (10 mL). This was brought to a pH of 9 with NaHCO3. The aqueous layer was extracted with EtOAc. The organic layer was washed with brine, dried (MgSO4), filtered and concentrated to yield the title compound as a brown oil.

reactant | POCl3 | 0.15 mmol, 22 mg | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 4-(3-fluorophenyl)-1-hydroxy-6-pyridin-2-ylisoquinoline-3-carbonitrile | 0.15 mmol, 50 mg | FC=1C=C(C=CC1)C1=C(N=C(C2=CC=C(C=C12)C1=NC=CC=C1)O)C#N | C21H12FN3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | H2O | 10 mL | O | H2O
product | 1-chloro-4-(3-fluorophenyl)-6-pyridin-2-ylisoquinoline-3-carbonitrile | ClC1=NC(=C(C2=CC(=CC=C12)C1=NC=CC=C1)C1=CC(=CC=C1)F)C#N | C21H11ClFN3
